US04245107
436 mg. of 3-(3-thienylsulfinyl)butyric acid and 7-amino-3-(1-oxopyridazine-3-ylthiomethyl)-3-cephem-4-carboxylic acid were reacted in the same manner as described in Example 28 and 432 mg. of 7-[3-(3-thienylsulfinyl)butyramido]-3-(1-oxopyridazine-3-ylthiomethyl)-3-cephem-4-carboxylic acid were obtained.

reactant | 3-(3-thienylsulfinyl)butyric acid | S1C=C(C=C1)S(=O)C(CC(=O)O)C | C8H10O3S2
reactant | 7-amino-3-(1-oxopyridazine-3-ylthiomethyl)-3-cephem-4-carboxylic acid | NC1[C@@H]2N(C(=C(CS2)C(=O)SC=2N=NC=CC2)C(=O)O)C1=O | C12H10N4O4S2
product | 7-[3-(3-thienylsulfinyl)butyramido]-3-(1-oxopyridazine-3-ylthiomethyl)-3-cephem-4-carboxylic acid | S1C=C(C=C1)S(=O)C(CC(=O)NC1[C@@H]2N(C(=C(CS2)C(=O)SC=2N=NC=CC2)C(=O)O)C1=O)C | C20H18N4O6S4
